US04822801
1-Ethyl-5-amino-6,8-difluoro-7-(3-amino-1-pvrrolidinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Hydrochloride
A near solution of 4.5 g (10 mmole) of 1-ethyl-5-amino-6,8-difluoro-7-[3-(t-butoxycarbonylamino)-1-pyrrolidinyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 10 ml of 6.0 M hydrochloric acid and 100 ml of glacial acetic acid is heated at 60° C. for four hours and then stirred at room temperature for 18 hours. The solvent is removed in vacuo, the residue triturated with ethanol/ether (1:1), filtered, washed with ether, and dried in vacuo to give the title compound.

reactant | 1-ethyl-5-amino-6,8-difluoro-7-[3-(t-butoxycarbonylamino)-1-pyrrolidinyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 10 mmole, 4.5 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)NC(=O)OC(C)(C)C)F)N)=O)C(=O)O | C21H26F2N4O5
reactant | hydrochloric acid | 6.0 M, 10 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-5-amino-6,8-difluoro-7-(3-amino-1-pvrrolidinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Hydrochloride | Cl.C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)N)F)N)=O)C(=O)O | InChI=1S/C16H18F2N4O3.ClH/c1-2-21-6-8(16(24)25)15(23)9-12(20)10(17)14(11(18)13(9)21)22-4-3-7(19)5-22;/h6-7H,2-5,19-20H2,1H3,(H,24,25);1H
